US08623898B2
N-(Tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]imidazo[1,2-a]pyridine-2-carboxamide
N-[3-(Trifluoromethoxy)benzyl]tetrahydro-2H-pyran-4-amine (242 mg), imidazo[1,2-a]pyridine-2-carboxylic acid (194 mg), EDC.HCl (199 mg), HOBt (138 mg), dimethylformamide (5 mL) and triethylamine (0.33 mL) was stirred overnight at room temperature. The solvents were distilled off under reduced pressure and following extraction with ethyl acetate, the extract was washed with a saturated aqueous solution of sodium hydrogencarbonate and saturated saline, and dried over anhydrous magnesium sulfate. The desiccant was filtered off and, thereafter, the solvents were concentrated. The residue was purified by column chromatography (NH silica gel cartridge; ethyl acetate) to give the titled compound (286 mg).

reactant | N-[3-(Trifluoromethoxy)benzyl]tetrahydro-2H-pyran-4-amine | 242 mg | FC(OC=1C=C(CNC2CCOCC2)C=CC1)(F)F | C13H16F3NO2
reactant | imidazo[1,2-a]pyridine-2-carboxylic acid | 194 mg | N=1C(=CN2C1C=CC=C2)C(=O)O | C8H6N2O2
reactant | EDC.HCl | 199 mg | CCN=C=NCCCN(C)C.Cl
reactant | HOBt | 138 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | triethylamine | 0.33 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | N-(Tetrahydro-2H-pyran-4-yl)-N-[3-(trifluoromethoxy)benzyl]imidazo[1,2-a]pyridine-2-carboxamide | 286 mg | O1CCC(CC1)N(C(=O)C=1N=C2N(C=CC=C2)C1)CC1=CC(=CC=C1)OC(F)(F)F | C21H20F3N3O3
